US08309740B2
1-Methylimidazole (10 mmol) was dissolved in acetonitrile (20 mL) in a 100 mL high pressure reactor, and HCl (ether solution, 10 mmol) was added slowly. After sealing the reactor and removing air, 1,1,2,3,3,3-hexafluoropropylene (20 mmol) was added and stirring was carried out at room temperature (20° C.) for 2 hours. Pressure inside the reactor, which was initially maintained at room temperature at about 60 psig by 1,1,2,3,3,3-hexafluoropropylene, decreased as the reaction occurred. When the pressure did not decrease any more, reaction product was taken from the reactor and the solvent was removed under reduced pressure. The reaction product 1-methyl-3-(1,1,2,3,3,3-hexafluoropropyl)imidazolium chloride was obtained as white solid. Yield of the obtained ionic liquid was calculated by the following Equation 1.

reactant | 1-Methylimidazole | 10 mmol | CN1C=NC=C1 | C4H6N2
reactant | HCl | 10 mmol | Cl | ClH
reactant | 1,1,2,3,3,3-hexafluoropropylene | 20 mmol | FC(=C(C(F)(F)F)F)F | C3F6
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-methyl-3-(1,1,2,3,3,3-hexafluoropropyl)imidazolium chloride | Yield 97% | [Cl-].C[N+]1=CN(C=C1)C(C(C(F)(F)F)F)(F)F | InChI=1S/C7H7F6N2.ClH/c1-14-2-3-15(4-14)7(12,13)5(8)6(9,10)11;/h2-5H,1H3;1H/q+1;/p-1
